US08017604B2
Step 5: 4-Chloro-2-methyl-2H-pyrazole-3-carboxylic acid (2-phenyl-imidazo[1,2-a]pyridin-7-yl)-amide
Under an atmosphere of nitrogen, N—N-diisopropylethylamine (749 mg, 6 mmol) and 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate (TBTU, 744 mg, 1.94 mmol) were added to a solution of 4-chloro-2-methyl-2H-pyrazole-3-carboxylic acid (310 mg, 1.94 mmol, Art-Chem B000148) in DMF (5 ml). After 30 min, 2-phenyl-imidazo[1,2-a]pyridin-7-ylamine (404 mg, 1.94 mmol) was added, and the brown solution was stirred over the weekend (r.t.). The reaction mixture was taken up in ethyl acetate and washed with water. After drying (Na2SO4), the solvent was evaporated and the title compound (170 mg, 25%) was isolated by column chromatography (silica gel, heptane:ethyl acetate=100:0-50:50). MS (m/e)=352.2 [M+H+].

reactant | 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | 1.94 mmol, 744 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 4-chloro-2-methyl-2H-pyrazole-3-carboxylic acid | 1.94 mmol, 310 mg | ClC1=C(N(N=C1)C)C(=O)O | C5H5ClN2O2
reactant | 2-phenyl-imidazo[1,2-a]pyridin-7-ylamine | 1.94 mmol, 404 mg | C1(=CC=CC=C1)C=1N=C2N(C=CC(=C2)N)C1 | C13H11N3
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Chloro-2-methyl-2H-pyrazole-3-carboxylic acid (2-phenyl-imidazo[1,2-a]pyridin-7-yl)-amide | 170 mg, 25% | C1(=CC=CC=C1)C=1N=C2N(C=CC(=C2)NC(=O)C=2N(N=CC2Cl)C)C1 | C18H14ClN5O
